US06166006
To a mixture of (E)-N-[4-(hydroxymethyl)phenyl]-3-(4-methylphenyl)cinnamamide (3.00 g), lithium chloride (741 mg), triethylamine (3.06 ml), DMAP(catalytic amount) and dichloro-methane (300 ml) was added methanesulfonyl chloride (1.15 ml), and the mixture was stirred at room temperature for 13 hours. To the reaction mixture was added 4N hydrochloric acid ethyl acetate solution (3.3 ml), and the mixture was purified with column chromatography (ethyl acetate) and recrystallized from ethyl acetatediisopropylether to give (E)-N-[4-(chloromethyl)phenyl]-3-(4-methylphenyl)cinnamamide (2.00 g) as colorless crystals.

reactant | (E)-N-[4-(hydroxymethyl)phenyl]-3-(4-methylphenyl)cinnamamide | 3.00 g | OCC1=CC=C(C=C1)NC(\C=C\C1=CC(=CC=C1)C1=CC=C(C=C1)C)=O | C23H21NO2
reactant | lithium chloride | 741 mg | [Cl-].[Li+]
reactant | methanesulfonyl chloride | 1.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid ethyl acetate | 4N, 3.3 ml | C(C)OC(C)=O.Cl
solvent | dichloro-methane | 300 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3.06 ml | C(C)N(CC)CC | C6H15N
product | (E)-N-[4-(chloromethyl)phenyl]-3-(4-methylphenyl)cinnamamide | 2.00 g | ClCC1=CC=C(C=C1)NC(\C=C\C1=CC(=CC=C1)C1=CC=C(C=C1)C)=O | C23H20ClNO
